US04058532
By following a procedure similar to that described in Example 7 (Procedure 2) and substituting for 1-(4-methoxyphenyl)-2-phenyl-4(1H)-quinolone an equivalent amount of 1-{4-[2-(diethylamino)ethoxy]phenyl}-2-phenyl-4(1H)-quinolone there can be obtained 1-{4-[2-(diethylamino)ethoxy]phenyl}-2-phenyl-1,2,3,4-tetrahydroquinoline.

reactant | 1-(4-methoxyphenyl)-2-phenyl-4(1H)-quinolone | COC1=CC=C(C=C1)N1C(=CC(C2=CC=CC=C12)=O)C1=CC=CC=C1 | C22H17NO2
reactant | 1-{4-[2-(diethylamino)ethoxy]phenyl}-2-phenyl-4(1H)-quinolone | C(C)N(CCOC1=CC=C(C=C1)N1C(=CC(C2=CC=CC=C12)=O)C1=CC=CC=C1)CC | C27H28N2O2
product | 1-{4-[2-(diethylamino)ethoxy]phenyl}-2-phenyl-1,2,3,4-tetrahydroquinoline | C(C)N(CCOC1=CC=C(C=C1)N1C(CCC2=CC=CC=C12)C1=CC=CC=C1)CC | C27H32N2O
